US04080326
4-Hydroxy-2-ethylaminopyrimidin-6-yl acetic acid was suspended in ethanol (50 ml) and the mixture refluxed for 16 hours. Evaporation of the ethanol under reduced pressure yielded chromatographically pure 4-hydroxy-2-ethylamino-6-methylpyrimidine, melting at 176° C.

reactant | 4-Hydroxy-2-ethylaminopyrimidin-6-yl acetic acid | OC1=NC(=NC(=C1)CC(=O)O)NCC | C8H11N3O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-hydroxy-2-ethylamino-6-methylpyrimidine | OC1=NC(=NC(=C1)C)NCC | C7H11N3O
